### PR TITLE
Complete Algebra.exists_dvd_nonzero_if_isIntegral

### PR DESCRIPTION
**Pull request by morrison-daniel**

### CODE REVIEW

**Review by kbuzzard — COMMENTED** [review]
Sorry it's taken me a while to get to this. FLT is supposed to be my full-time job right now but in practice there are some teething troubles whilst I get other aspects of my life under control (e.g. getting to inbox 0, which I've not had now for several months but am nearly achieving). My instinct is that this proof is too long. I think your idea of breaking it into two pieces is great. My instinct is that both pieces are too long right now.

**Comment by pitmonticone** [comment]
I can certainly help you in golfing this proof if you want. 

I'll have more time tonight.

File: FLT/MathlibExperiments/FrobeniusRiou.lean [hunk 1]
```diff
@@ -522,10 +522,123 @@ theorem reduction_isIntegral : Algebra.IsIntegral (A ⧸ P) (B ⧸ Q) := by
...
+      obtain ⟨i_nzero, _⟩ := hi
+      simp
+      rw [← mul_assoc]
+      nth_rw 3 [mul_comm]
+      rw [mul_assoc]
+      congr
+      symm
+      nth_rw 1 [← pow_one s]
+      apply pow_mul_pow_sub s
+      exact Nat.one_le_iff_ne_zero.mpr i_nzero
```
Comment (pitmonticone) [inline FLT/MathlibExperiments/FrobeniusRiou.lean:641]: Here is a shorter version. You can directly commit the suggestion if you like since it's already been tested locally:

```suggestion
  obtain ⟨q, _, q_zero_coeff, q_eval_zero⟩ := Polynomial.monic_nonzero_const_if_isIntegral R S s hs
  have zero_support : 0 ∈ q.support := Polynomial.mem_support_iff.mpr q_zero_coeff
  have q_eval_zero : ∑ n ∈ q.support, (algebraMap R S) (q.coeff n) * s ^ n = 0 := by
    rw [← q_eval_zero]
    nth_rw 3 [Polynomial.as_sum_support q]
    rw [Polynomial.eval₂_finset_sum]
    simp
  refine ⟨q.coeff 0, q_zero_coeff, ?_⟩
  have : (q.coeff 0 : S) = ((algebraMap R S) (q.coeff 0)) * s ^ 0 := by rw [pow_zero, mul_one]
  have : q.coeff 0 = - ∑ n ∈ q.support.erase 0, (algebraMap R S) (q.coeff n) * s ^ n := by
    rw [← sub_add_cancel_left (q.coeff 0 : S)
      (∑ n ∈ q.support.erase 0, (algebraMap R S) (q.coeff n) * s ^ n)]
    nth_rw 3 [this]
    rw [add_comm, Finset.sum_erase_add _ _ zero_support, q_eval_zero]
    simp
  rw [this, dvd_neg]
  refine ⟨∑ n ∈ q.support.erase 0, (algebraMap R S) (q.coeff n) * s ^ (n - 1), ?_⟩
  rw [Finset.mul_sum]
  refine Finset.sum_equiv (Equiv.refl ℕ) (fun _ ↦ Iff.symm (Eq.to_iff rfl)) ?_
  . intro i hi
    rw [Finset.mem_erase] at hi
    obtain ⟨i_nzero, _⟩ := hi
    rw [Equiv.refl_apply, ← mul_assoc]
    nth_rw 3 [mul_comm]
    rw [mul_assoc]
    congr
    symm
    nth_rw 1 [← pow_one s]
    exact pow_mul_pow_sub s (Nat.one_le_iff_ne_zero.mpr i_nzero)
```

File: FLT/MathlibExperiments/FrobeniusRiou.lean [hunk 2]
```diff
@@ -522,10 +522,123 @@ theorem reduction_isIntegral : Algebra.IsIntegral (A ⧸ P) (B ⧸ Q) := by
...
+            rw [mul_comm]
+            exact pow_mul_pow_sub s this
+          . rw [not_mem_support_iff.mp n_nsupport]
+            simp
+        let zero_or_zero := NoZeroDivisors.eq_zero_or_eq_zero_of_mul_eq_zero this
+        rcases zero_or_zero with s_pow_zero | h
+        . by_contra
+          apply hs
+          exact pow_eq_zero s_pow_zero
+        . exact h
```
Comment (pitmonticone) [inline FLT/MathlibExperiments/FrobeniusRiou.lean:599]: Here is a shorter version. You can directly commit the suggestion if you like since it's already been tested locally:

```suggestion    
    obtain ⟨p, p_monic, p_eval⟩ := (@Algebra.isIntegral_def R S).mp inferInstance s
    use ∑ n ∈ p.support, monomial (n - p.natTrailingDegree) (p.coeff n)
    have : (∑ n ∈ p.support, monomial (n - p.natTrailingDegree) (p.coeff n)).degree
        ≤ p.natDegree - p.natTrailingDegree := by
      refine le_trans (Polynomial.degree_sum_le p.support (fun x ↦ monomial (x - p.natTrailingDegree) (p.coeff x))) ?_
      rw [Finset.sup_le_iff]
      refine fun n hn ↦ le_trans (degree_monomial_le (n - p.natTrailingDegree) _) (?_)
      rw [Nat.cast_le]
      exact Nat.sub_le_sub_right (le_natDegree_of_mem_supp n hn) p.natTrailingDegree
    constructor
    . apply monic_of_degree_le_of_coeff_eq_one (p.natDegree - p.natTrailingDegree) this
      rw [finset_sum_coeff, Finset.sum_eq_single_of_mem p.natDegree]
      . rw [coeff_natDegree, coeff_monomial_same]
        exact Monic.leadingCoeff p_monic
      . exact natDegree_mem_support_of_nonzero (ne_zero_of_ne_zero_of_monic X_ne_zero p_monic)
      . intro b b_support b_ne_natDegree
        rw [coeff_monomial_of_ne]
        by_contra h
        apply b_ne_natDegree
        have this1 : p.natTrailingDegree ≤ b := by
          rw [natTrailingDegree_eq_support_min' (ne_zero_of_ne_zero_of_monic X_ne_zero p_monic)]
          exact Finset.min'_le p.support b b_support
        have this2 : p.natTrailingDegree ≤ p.natDegree := Polynomial.natTrailingDegree_le_natDegree p
        rw [Nat.sub_eq_iff_eq_add this1] at h
        simp [h, this1, this2]
    . constructor
      . rw [finset_sum_coeff, Finset.sum_eq_single_of_mem p.natTrailingDegree]
        . rw [coeff_monomial]
          simp only [le_refl, tsub_eq_zero_of_le, ↓reduceIte, ne_eq,
            coeff_natTrailingDegree_eq_zero, ne_zero_of_ne_zero_of_monic X_ne_zero p_monic,
            not_false_eq_true]
        . exact natTrailingDegree_mem_support_of_nonzero
            (ne_zero_of_ne_zero_of_monic X_ne_zero p_monic)
        . intro n n_support n_neq_d
          rw [coeff_monomial_of_ne]
          have : p.natTrailingDegree ≤ n := natTrailingDegree_le_of_mem_supp _ n_support
          by_contra h
          apply n_neq_d
          rw [Nat.sub_eq_iff_eq_add this] at h
          simp [h, this]
      . rw [eval₂_finset_sum]
        simp
        have : ∑ n ∈ p.support, (algebraMap R S) (p.coeff n) * s ^ n = 0 := by
          rw [← p_eval]
          nth_rw 3 [as_sum_support p]
          rw [eval₂_finset_sum]
          simp
        have : (s ^ p.natTrailingDegree) * ∑ n ∈ p.support, (algebraMap R S) (p.coeff n)
            * (s ^ (n - p.natTrailingDegree)) = 0 := by
          rw [← this, Finset.mul_sum]
          congr with n
          rcases Classical.em (n ∈ p.support) with n_support | n_nsupport
          . have : p.natTrailingDegree ≤ n := natTrailingDegree_le_of_mem_supp n n_support
            rw [mul_comm, mul_assoc]
            congr
            rw [mul_comm]
            exact pow_mul_pow_sub s this
          . rw [not_mem_support_iff.mp n_nsupport]
            simp
        let zero_or_zero := NoZeroDivisors.eq_zero_or_eq_zero_of_mul_eq_zero this
        rcases zero_or_zero with s_pow_zero | h
        . by_contra; exact hs (pow_eq_zero s_pow_zero)
        . exact h
```

**Review by pitmonticone — COMMENTED** [review]
I have suggested two slightly shorter versions of the proofs.

**Comment by pitmonticone** [comment]
I have also removed the `import Mathlib` minimising the imports.

**Comment by morrison-daniel** [comment]
I added the two suggestions. I'll check out `Polynomial.divByMonic` to see if that helps more.

File: FLT/MathlibExperiments/FrobeniusRiou.lean [hunk 3]
```diff
@@ -522,10 +522,123 @@ theorem reduction_isIntegral : Algebra.IsIntegral (A ⧸ P) (B ⧸ Q) := by
...
+          exact Finset.min'_le p.support b b_support
+        have this2 : d ≤ p.natDegree := by
+          exact Polynomial.natTrailingDegree_le_natDegree p
+        rw [Nat.sub_eq_iff_eq_add this1] at h
+        simp [h, this1, this2]
+    . constructor
+      . rw [finset_sum_coeff]
+        rw [Finset.sum_eq_single_of_mem d]
+        . rw [coeff_monomial]
+          simp [d, p_neq_zero]
```
[the remark this answers is not in the document]
Comment (morrison-daniel) [reply FLT/MathlibExperiments/FrobeniusRiou.lean]: Can you explain why nonterminal simps are bad? Is there a better way to let Lean help simplify things?

**Comment by morrison-daniel** [comment]
I was able to get it down to ~30 lines total using `Mathlib.Algebra.Polynomial.Div`
